US05006157
Preparation of 1-(3-methylsufonyl-α,α-dimethylbenzyl)-4-methyl-3-phenyl-3-pyrrolin-2-one (Compound No. 383)
A methanol/water (1/1) solution of 2.2 g (0.0065 mol) of 1-(3-methylthio-α,α-dimethylbenzyl)-4-methyl-3-phenyl-3-pyrrolin-2-one (Compound No. 364) prepared in accordance with the method of Example 2, was cooled to 5° C., and 30 ml of an aqueous solution of 12 g (0.020 mol) of Oxone was dropwise added thereto at a temperature not higher than 5° C. The mixture was stirred at 5° C. for 2 hours and then at room temperature for further 2 hours. 200 ml of ice water and 100 ml of isopropyl ether were added thereto, and the mixture was stirred for 10 minutes. Then, the product was isolated by filtration and washed with diethyl ether to obtain 1.5 g (yield: 62.3%) of the desired compound as white crystals.

reactant | 1-(3-methylthio-α,α-dimethylbenzyl)-4-methyl-3-phenyl-3-pyrrolin-2-one | 0.0065 mol, 2.2 g | CSC=1C=C(C(C)(C)N2C(C(=C(C2)C)C2=CC=CC=C2)=O)C=CC1 | C21H23NOS
reactant | Oxone | 0.020 mol, 12 g | OOS(=O)[O-].[K+]
reactant | isopropyl ether | 100 ml | C(C)(C)OC(C)C | C6H14O
solvent | methanol water | CO.O
product | 1-(3-methylsufonyl-α,α-dimethylbenzyl)-4-methyl-3-phenyl-3-pyrrolin-2-one | 1.5 g, yield: 62.3% | CS(=O)(=O)C=1C=C(C(C)(C)N2C(C(=C(C2)C)C2=CC=CC=C2)=O)C=CC1 | C21H23NO3S
